US04675334
1-{2-Hydroxy-3-propyl-4-[4-(2-bromoethyl)phenylmethoxy]phenyl}ethanone
To a solution of 1-(2,4-dihydroxy-3-propylphenyl)ethanone (10.0 g; 0.051 m) in dry methyl ethyl ketone (100 ml) was added dried anhydrous sodium carbonate (27 g; 5 mol eq) and sodium iodide (0.5 g). To the stirred suspension was added 4-(2-bromoethyl)phenylmethylbromide (14.2 g; 0.051 m) (literature preparation) and the suspension gently heated at reflux overnight. The cooled suspension was evaporated under reduced pressure, the residue taken up in water and extracted with dichloromethane (×2). The organic extract was washed with aqueous sodium hydroxide (2N), then water, dried over magnesium sulphate, filtered and evaporated under reduced pressure to give a yellow oil. The oil was chromatographed on a U30 Sorbsil column using dichloromethane to give a pale yellow oil which crystallised on standing to a white crystalline solid; recrystallised from ethanol m.p. 66°-70° C.

reactant | 1-(2,4-dihydroxy-3-propylphenyl)ethanone | 10.0 g | OC1=C(C=CC(=C1CCC)O)C(C)=O | C11H14O3
reactant | sodium carbonate | 5 mol, 27 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | sodium iodide | 0.5 g | [I-].[Na+]
reactant | 4-(2-bromoethyl)phenylmethylbromide | 14.2 g | BrCCC1=CC=C(C=C1)CBr | C9H10Br2
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | 1-{2-Hydroxy-3-propyl-4-[4-(2-bromoethyl)phenylmethoxy]phenyl}ethanone | OC1=C(C=CC(=C1CCC)OCC1=CC=C(C=C1)CCBr)C(C)=O | C20H23BrO3
